US05523403
(±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl ]methyl ]acetamide.
The (±)-N-[[3-(4-iodo-3,5-difluorophenyl)-2-oxo-5-oxazolidinyl]methyl ]acetamide (250 mg, 0.631 mmol) was dissolved in 1,4-dioxane (15 mL) and then treated with the stannyltropone (226 mg, 0.757 mmol). After degassing the solution 3 times with N2, the bis(triphenylphosphine)palladium(II) chloride (70 mg, 0.10 mmol) was added. The solution was degassed again (3×) and then it was heated to reflux (110° C.) for 7 h. At this point, the reaction was incomplete; fresh catalyst (70 mg, 0.10 mmol) was added, and after degassing again (3×), the solution was again heated to reflux for 7 h. At this time, the solvent was removed in vacuo and the residual oil was dissolved in CH2Cl2 (50 mL). The CH2Cl2 solution was washed with aqueous KF (40 mL) and brine (40 mL). After drying over anhydrous Na2SO4, the organic layer was filtered and concentrated under reduced pressure to yield a foamy, brown solid. This solid was chromatographed on silica gel (100 g), eluting with a gradient of 0-10% MeOH in 10% CH3CN/CHCl3 to give impure product. This product was repurified by preparative TLC (5% MeOH/CHCl3) to yield 72 mg (28%) of the title compound as an off-white solid with mp 218° C. (dec) and identical in all respects to material prepared as described above.

reactant | (±)-N-[[3-(4-iodo-3,5-difluorophenyl)-2-oxo-5-oxazolidinyl]methyl ]acetamide | 0.631 mmol, 250 mg | IC1=C(C=C(C=C1F)N1C(OC(C1)CNC(C)=O)=O)F | C12H11F2IN2O3
reactant | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.10 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (±)-N-[[3-[4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl ]methyl ]acetamide | 72 mg, 28% | COC1=CC=C(C=CC1=O)C1=C(C=C(C=C1F)N1C(OC(C1)CNC(C)=O)=O)F | C20H18F2N2O5
